US07071175B1
Tetrabutylammonium fluoride (25.1 g 79.6 mmol) was added to a solution of 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-(tert-butyl-dimethyl-silanyloxymethyl)-3-methylpyridin (18.0 g, 39.8 mmol) in THF (150 mL). The reaction mixture was stirred overnight at room temperature. Concentration under reduced pressure followed by flash chromatography (hexane/EtOAc, 50:50) gave 2-[N,N -bis(tert-butoxycarbonyl)amino]-5-hydroxymethyl-3-methylpyridin (8.0 g, 59%).

reactant | Tetrabutylammonium fluoride | 79.6 mmol, 25.1 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-(tert-butyl-dimethyl-silanyloxymethyl)-3-methylpyridin | 39.8 mmol, 18.0 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C=C1C)C(O[SiH2]C(C)(C)C)(C)C | C23H40N2O5Si
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-[N,N -bis(tert-butoxycarbonyl)amino]-5-hydroxymethyl-3-methylpyridin | 8.0 g, 59% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C=C1C)CO | C17H26N2O5
